US05866513
A stirred solution of 8.77 g (44.7 mmol) of 2,3,4-trimethoxybenzaldehyde in 100 mL of THF was cooled in an ice bath and 55 mL of 1.0 molar (55.0 mmol) allylmagnesium bromide in ether was added dropwise over 0.5 h. The cooling bath was allowed to warm up and the mixture was stirred overnight at room temperature. A 200 mL portion of 5% aqueous HCl was added and the mixture was extracted with two 200 mL portions of ether. The combined ether extracts were washed with 50 mL of saturated aqueous NaHCO3, dried over MgSO4 and the solvent removed in vacuo to leave 10.30 g of 4-hydroxy-4-(2,3,4-trimethoxyphenyl)butene as an oil. 1H NMR (CDCl3) d 2.5 (m, 2H), 3.8 (s, 6H), 3.9 (s, 3H), 4.9 (t, 1H), 5.1 (m, 2H), 5.85 (m, 1H), 6.65 (d, 1H), 7.05 (d, 1H).

reactant | 2,3,4-trimethoxybenzaldehyde | 44.7 mmol, 8.77 g | COC1=C(C=O)C=CC(=C1OC)OC | C10H12O4
reactant | allylmagnesium bromide | 55.0 mmol, 1.0 molar | C(C=C)[Mg]Br
reactant | HCl | Cl | ClH
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 4-hydroxy-4-(2,3,4-trimethoxyphenyl)butene | 10.30 g | OC(CC=C)C1=C(C(=C(C=C1)OC)OC)OC | C13H18O4
